US07618985B2
3-(3-Methoxy-phenyl)-but-2-enoic acid methyl ester (2 g, 7.9 mmol) and sodium hydroxide (0.78 g, 19.4 mmol) were dissolved in a mixture of water (50 ml), methanol (50 ml) and THF (50 ml). The mixture was stirred at ambient temperature for 16 hours and then concentrated under reduced pressure. The remaining aqueous solution was diluted with water and extracted with EtOAc twice. The aqueous was collected and acidified to pH 4 and extracted with EtOAc three times. The organics were combined, dried (magnesium sulphate) and concentrated in vacuo to give 3-(3-Methoxy-phenyl)-but-2-enoic acid as a white crystalline solid (1 g, 55%).

reactant | 3-(3-Methoxy-phenyl)-but-2-enoic acid methyl ester | 7.9 mmol, 2 g | COC(C=C(C)C1=CC(=CC=C1)OC)=O | C12H14O3
reactant | sodium hydroxide | 19.4 mmol, 0.78 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(3-Methoxy-phenyl)-but-2-enoic acid | 1 g, 55% | COC=1C=C(C=CC1)C(=CC(=O)O)C | C11H12O3
